US07786105B2
27.1 6-Methoxy-3,4-dihydroquinolin-2(1H)-one
6-Hydroxy-3,4-dihydroquinolin-2(1H)-one (18.38 mmol, 3.00 g) was treated in the presence of K2CO3 (22.98 mmol, 3.18 g) with methyl iodide (22.98 mmol, 3.26 g) in N,N-dimethylformamide (30 ml) at room temperature for 24 hours, resulting in 2.05 g of the title compound.

reactant | 6-Hydroxy-3,4-dihydroquinolin-2(1H)-one | 18.38 mmol, 3.00 g | OC=1C=C2CCC(NC2=CC1)=O | C9H9NO2
reactant | K2CO3 | 22.98 mmol, 3.18 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 22.98 mmol, 3.26 g | CI | CH3I
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-Methoxy-3,4-dihydroquinolin-2(1H)-one | 2.05 g | COC=1C=C2CCC(NC2=CC1)=O | C10H11NO2
